US07691866B2
1. Synthesis of (3-tert-Butyl-phenyl)-(6-methoxy-quinoxalin-2-yl)-amine
A solution containing 2-chloro-6-methoxyquinoxaline (synthesized as described in J. Chem. Soc. Perkin Trans 2001, 978-984) (1 eq), 3-t-butylaniline (2 eq) in ethanol was heated at 80° C. overnight. The resultant mixture was concentrated and partitioned between ethyl acetate and water. The organic layer was washed with brine and dried. Purification on silica gel gave the desired product.

reactant | 2-chloro-6-methoxyquinoxaline | 1 eq | ClC1=NC2=CC=C(C=C2N=C1)OC | C9H7ClN2O
reactant | 3-t-butylaniline | 2 eq | C(C)(C)(C)C=1C=C(N)C=CC1 | C10H15N
solvent | ethanol | C(C)O | C2H6O
product | (3-tert-Butyl-phenyl)-(6-methoxy-quinoxalin-2-yl)-amine | C(C)(C)(C)C=1C=C(C=CC1)NC1=NC2=CC=C(C=C2N=C1)OC | C19H21N3O
